US07208524B2
To a stirred solution of 146 g of [4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonyl-biphenyl-3-yloxy]acetic acid in 580 mL of ethanol was added 137 mL of 2mol/L sodium hydroxide solution under ice-cooling, and the solvent was removed under reduced pressure. The residue was suspended with 1.16 L of ethanol, and the mixture was stirred under reflux for an hour, then at room temperature overnight. The obtained white solid was collected by filtration to give 129 g of sodium[4-[2-(5-cyano-2-hydroxybenzenesulfonyl-amino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate.

reactant | [4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonyl-biphenyl-3-yloxy]acetic acid | 146 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)O)O | C24H22N2O8S2
reactant | sodium hydroxide | 2mol/L, 137 mL | [OH-].[Na+]
solvent | ethanol | 580 mL | C(C)O | C2H6O
product | sodium[4-[2-(5-cyano-2-hydroxybenzenesulfonyl-amino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate | 129 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)[O-])O.[Na+] | InChI=1S/C24H22N2O8S2.Na/c1-35(30,31)22-5-3-2-4-19(22)18-8-7-17(21(13-18)34-15-24(28)29)10-11-26-36(32,33)23-12-16(14-25)6-9-20(23)27;/h2-9,12-13,26-27H,10-11,15H2,1H3,(H,28,29);/q;+1/p-1
